US07323453B2
Step A: 2-Amino-6-chloro-9-(2,3,5-tri-O-benzoyl-2-C-methyl-β-D-ribofuranosyl)purine
To a pre-cooled solution of 1,2,3,5-tetra-O-benzoyl-2-C-methyl-D-ribofuranose [Harry-O'kuru, Rogers E.; Smith, Jennifer M.; Wolfe, Michael S, “A Short, Flexible Route toward 2′-C-Branched Ribonucleosides,” J. Org. Chem., 62:1754-1759 (1997)] (1.74 g, 3.00 mmol) in acetonitrile (15 mL) was added 2-amino-6-chloropurine (0.56 g, 3.30 mmol), then diazabicyclo[5.4.0]undec-7-ene (DBU) (1.37 g, 9.00 mmol), and then dropwise trimethylsilylmethyl trifluoromethanesulfonate (TMS trifate) (2.67 g, 12.00 mmol). The resulting mixture was heated to 65° C. for 4 h, then cooled and partitioned between saturated aqueous sodium bicarbonate (200 mL) and dichloromethane (200 mL). The organic phase was dried over magnesium sulfate, filtered and evaporated in vacuo. The resulting crude product was used directly in step B.

reactant | 1,2,3,5-tetra-O-benzoyl-2-C-methyl-D-ribofuranose | C(C1=CC=CC=C1)(=O)OC1[C@](OC(C2=CC=CC=C2)=O)([C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)C | C34H28O9
reactant | 2-amino-6-chloropurine | 3.30 mmol, 0.56 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | diazabicyclo[5.4.0]undec-7-ene | 9.00 mmol, 1.37 g | N12NCCCCC2=CCCC1 | C9H16N2
reactant | trimethylsilylmethyl trifluoromethanesulfonate | 12.00 mmol, 2.67 g | FC(S(=O)(=O)OC[Si](C)(C)C)(F)F | C5H11F3O3SSi
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-Amino-6-chloro-9-(2,3,5-tri-O-benzoyl-2-C-methyl-β-D-ribofuranosyl)purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@](OC(C2=CC=CC=C2)=O)([C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)C)Cl | C32H26ClN5O7
